US07488843B1
We initially studied oxidation of methylene substituted benzylic aromatics to ketones (Scheme 1, R≠H). When a mixture of fluorene with 10 equivalents 70% aqueous TBHP was irradiated with microwave in a sealed vessel for 10 minutes (250 W, 170° C.), an almost quantitative yield of fluorenone was isolated (Table 1). As a control experiment, when we simply refluxed the same reaction mixture by conventional oil bath heating for 8 hours, only a trace amount of fluorenone could be detected by TLC. Oxidation of another substrate with a doubly activated benzylic position, diphenylmethane, also afforded benzophenone in high yield. For the mono-activated methylene units, ethylbenzene to acetophenone and tetrahydronaphthalene to alpha-tetralone, the oxidations under this green protocol also went smoothly. The results are summarized in Table 1.

reactant | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | TBHP | 10 equivalents | CC(C)(C)OO | C4H10O2
product | fluorenone | quantitative yield | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
